US03950353
By the procedure of Example 18, 3-[(2-aminoethyl)-thiomethyl]pyridazine is reacted with benzoyl isothiocyanate to give N-benzoyl-N'-[2-(3-pyridazinylmethylthio)ethyl]thiourea. Removing the benzoyl group by the procedure of Example 18 gives N-[2-(3-pyridazinylmethylthio)ethyl]thiourea.

reactant | 3-[(2-aminoethyl)-thiomethyl]pyridazine | NCCSCC=1N=NC=CC1 | C7H11N3S
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-benzoyl-N'-[2-(3-pyridazinylmethylthio)ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC=1N=NC=CC1 | C15H16N4OS2
